US05034391
5-Methoxy-2-methyl-4-((2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl)amino)-3(2H)-pyridazinone
4.2 g (0.011 mol) of 5-chloro-2-methyl-4-((2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl)amino)-3(2H)-pyridazinone are heated in methanol, in which 0.010 mol of sodium methylate is dissolved, under reflux for 50 hours and then concentrated in vacuo. The residue is taken up in water, when 1.6 g of 5-methoxy-2-methyl-4-((2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl)amino)-3(2H)-pyridazinone (38.9% of theory) precipitate out. The solid is filtered off with suction, dried, dissolved in acetone and converted by addition of fumaric acid at the reflux temperature into 1.50 g (24.5% of theory) of fumarate, m.p. 144°-148° C.; C 54.0%, H 6.1%, N 12.5%, O 27.4%, UV in 0.1N H

reactant | 5-chloro-2-methyl-4-((2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl)amino)-3(2H)-pyridazinone | 0.011 mol, 4.2 g | ClC1=C(C(N(N=C1)C)=O)NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C18H24ClN5O2
reactant | sodium methylate | 0.010 mol | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 5-Methoxy-2-methyl-4-((2-(4-(2-methoxyphenyl)-1-piperazinyl)ethyl)amino)-3(2H)-pyridazinone | COC1=C(C(N(N=C1)C)=O)NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C19H27N5O3
